US04654363
Step L: Preparation of Methyl 7-(4,7-dichloro-2-methylnaphthalen-1-yl)-5-hydroxy-3-oxo-heptanoate
Methyl acetoacetate (0.292 g, 2.64 mmoles) dissolved in dry THF (2 ml) is added dropwise via a syringe through a septum to a stirred suspension of sodium hydride (0.127 g of a 50% NaH in mineral oil, 2.64 mmoles) in dry THF (7 ml) which had been chilled in an ice-water bath. The reaction was stirred in the cold for 15 minutes at which time a clear solution was obtained. To this solution in the cold was added n-butyl lithium (1.80 ml of a 1.47M solution in hexane; 2.64 mmoles) via syringe through the septum dropwise in about 5 minutes. The orange solution is stirred with ice-water bath for 15 minutes and then cooled to -78° C. in a dry ice-acetone bath. To this cold stirred reaction was added dropwise via syringe, 3-(4,7-dichloro-2-methylnaphthalen-1-yl)propanal (0.6715 g, 2.513 mmoles) dissolved in dry THF (5 ml). The reaction is allowed to stir at -78° for 15 minutes, then allowed to warm to 0° by emersing the reaction flask in an ice-water bath. When ice separated from the flask, the reaction was worked up by partitioning it between ether (150 ml) and water containing 0.6 ml of 12N HCl. Extracted the water layer with ether. The combined ether extracts are washed with water twice then with saturated solution of NaHCO3. The ether was dried (MgSO4) and the solvent removed in vacuo to leave 0.96 g of crude title Rf =0.45 (silica, 5% acetone/CH2Cl2) which was used in the next step without further purification.

reactant | Methyl acetoacetate | 2.64 mmoles, 0.292 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium hydride | [H-].[Na+]
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 3-(4,7-dichloro-2-methylnaphthalen-1-yl)propanal | 2.513 mmoles, 0.6715 g | ClC1=CC(=C(C2=CC(=CC=C12)Cl)CCC=O)C | C14H12Cl2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Methyl 7-(4,7-dichloro-2-methylnaphthalen-1-yl)-5-hydroxy-3-oxo-heptanoate | ClC1=CC(=C(C2=CC(=CC=C12)Cl)CCC(CC(CC(=O)OC)=O)O)C | C19H20Cl2O4
